US07067517B2
Methyl-phenyl-carbamic acid 4-heptylsulfanyl-phenyl ester
The title compound was prepared from 4-heptylsulfanyl-phenol and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC (74%, colourless oil, HPLC-MS m/z=358.2 (M+1), Rt: 6.21 min.

reactant | 4-heptylsulfanyl-phenol | C(CCCCCC)SC1=CC=C(C=C1)O | C13H20OS
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-heptylsulfanyl-phenyl ester | C(CCCCCC)SC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C21H27NO2S
